.SubCkt GA255DR7E2104MW01 _net1 _net2
.param K01=9.7928e-08
.param M01=2.0000e+09
.param L02=4.5039e-12
.param M03=1.2487e-02
.param K04=7.3547e-06
.param M04=2.1640e-01
.param K05=8.0158e-06
.param M05=1.4474e-02
.param K06=2.6934e-05
.param M06=1.0422e-02
.param K07=5.2210e-06
.param M07=3.9892e-03
.param L08=1.3161e-10
.param M08=1.2299e-01
.param K09=1.8593e-07
.param L09=7.5890e-11
.param M09=7.8747e-02
.param K10=5.6490e-08
.param L10=7.8349e-11
.param M10=7.5432e-02
.param K11=1.1294e-11
.param L11=2.6339e-10
.param M11=2.2106e+01
.param K12=6.4482e-12
.param L12=2.4662e-10
.param M12=3.8443e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net2 'K12'
L12 _net1112 _net2 'L12'
R12 _net1112 _net2 'M12'
.ends 
